US09079866B2
5-[3-Fluoro-2′-(pyrimidin-2-ylsulfanyl)biphenyl-4-yl]pyrazin-2-amine hydrochloride
To a solution of 4′-(5-aminopyrazin-2-yl)-5′-fluorobiphenyl-2-thiol (400 mg, 1.34 mmol) and 2-chloropyrimidine (167 mg, 1.47 mmol) in DMF (8 mL) were added DIPEA (345 mg, 2.68 mmol) and Ph3P (351 mg, 1.34 mmol) and the resultant mixture heated at 80° Celsius for 1 hour under a N2 atmosphere for 15 h. The mixture was cooled to rt, concentrated to dryness and the residue subjected to FCC to give the title compound (350 mg, 68%). MS (ESI): mass calcd. for C20H14FN5S.HCl, 375.10; m/z found, 376.0 [M+H]+. 1H NMR (300 MHz, CD3OD) δ 8.42 (d, J=4.9, 2H), 8.33-8.28 (m, 1H), 8.03 (d, J=1.4, 1H), 7.79-7.69 (m, 2H), 7.60-7.53 (m, 1H), 7.51-7.43 (m, 2H), 7.21 (dd, J=8.0, 1.7, 1H), 7.15 (dd, J=12.3, 1.6, 1H), 7.06 (m, 1H).

reactant | 4′-(5-aminopyrazin-2-yl)-5′-fluorobiphenyl-2-thiol | 1.34 mmol, 400 mg | NC=1N=CC(=NC1)C1=CC=C(C=C1F)C=1C(=CC=CC1)S | C16H12FN3S
reactant | 2-chloropyrimidine | 1.47 mmol, 167 mg | ClC1=NC=CC=N1 | C4H3ClN2
reactant | DIPEA | 2.68 mmol, 345 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | Ph3P | 1.34 mmol, 351 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 5-[3-Fluoro-2′-(pyrimidin-2-ylsulfanyl)biphenyl-4-yl]pyrazin-2-amine hydrochloride | 350 mg, 68% | Cl.FC=1C=C(C=CC1C=1N=CC(=NC1)N)C1=C(C=CC=C1)SC1=NC=CC=N1 | InChI=1S/C20H14FN5S.ClH/c21-16-10-13(6-7-15(16)17-11-26-19(22)12-25-17)14-4-1-2-5-18(14)27-20-23-8-3-9-24-20;/h1-12H,(H2,22,26);1H
